US06599925B2
1-Bromo-6-(3-pentyl-benzofuran-2-yl)-naphthalen-2-ol
Following the procedure described in Step 4 of Example 1, 6-(3-pentyl-benzofuran-2-yl)-naphthalen-2-ol (3.3 g, 10.0 mmol) was brominated using bromine (0.6 mL, 11.8 mmol), and potassium acetate (1.0 g. 10.2 mmol) in glacial acetic acid (40 mL). Purification by chromatography on a Biotage apparatus using 5% % ethyl acetate in hexane as the mobile phase furnished the title compound as an off-white solid (3.6 g), mp 75-77° C. Mass spectrum (+APCl, [M+H]+) m/z 409. 1HNMR (300 MHz, DMSO-d6): δ10.76 (br s,1H), 8.25 (d, 1H, J=1.2 Hz), 8.14 (d, 1H, J=8.9 Hz), 7.98-7.92 (m, 2H), 7.68-7.58 (m, 2H), 7.35-7.27 (m, 3H), 2.98 (t, 2H, J=7.3 Hz), 1.71 (p, 2H, J=6.9 Hz), 1.42-1.27 (m, 4H), and 0.87-0.80 ppm (tm 3H). Elemental Analysis for C23H21BrO2.0.7H2O: Calculated: C, 65.47; H, 5.35; N, 0.00. Found: C, 65.17; H, 4.92; N, 0.08.

reactant | 6-(3-pentyl-benzofuran-2-yl)-naphthalen-2-ol | 10.0 mmol, 3.3 g | C(CCCC)C1=C(OC2=C1C=CC=C2)C=2C=C1C=CC(=CC1=CC2)O | C23H22O2
reactant | bromine | 11.8 mmol, 0.6 mL | BrBr | Br2
reactant | potassium acetate | 10.2 mmol, 1.0 g | C(C)(=O)[O-].[K+]
solvent | acetic acid | 40 mL | C(C)(=O)O | C2H4O2
product | 1-Bromo-6-(3-pentyl-benzofuran-2-yl)-naphthalen-2-ol | 3.6 g | BrC1=C(C=CC2=CC(=CC=C12)C=1OC2=C(C1CCCCC)C=CC=C2)O | C23H21BrO2
